US07250528B2
Synthesis of 1-ethoxy-2,6-dimethyl-1H-indene
Anhydrous FeCl3 (2.0 g, 12.3 mmol.) was added to a solution of (2E)-2-methyl-3-(4-methylphenyl-2-propenal (5.0 g, 31.3 mmol.) and triethyl orthoformate (5.1 g, 34.5 mmol.) in dichloromethane (35 ml). The dark red solution was stirred at room temperature for 1 day, then diluted with 100 ml of diethyl ether and washed with water (3×75 ml). The organic phase was dried (MgSO4), filtered and concentrated. Kugelrohr distillation (54° C., 20 mTorr) yielded 1.4 g (7.4 mmol., 24% yield) of the title compound.

reactant | 4-methylphenyl-2-propenal | 31.3 mmol, 5.0 g | CC1=CC=C(C=C1)C(C=O)=C | C10H10O
reactant | triethyl orthoformate | 34.5 mmol, 5.1 g | C(OCC)(OCC)OCC | C7H16O3
reactant | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 1-ethoxy-2,6-dimethyl-1H-indene | 24% yield | C(C)OC1C(=CC2=CC=C(C=C12)C)C | C13H16O
